US07517889B2
A solution of (3-{6-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-acetonitrile (660 mg, 1.53 mmol) in MeOH (20 mL) and concentrated HCl (2 mL) is degassed by bubbling with Argon gas for 5 minutes, and treated with palladium hydroxide on carbon (0.4 g) at room temperature. The mixture is hydrogenated for 15 h at room temperature under hydrogen balloon, filtered through celite, and concentrated in a rotavap. The residue is diluted with water, basified with NaOH solution, and extracted with EtOAc. The extracts are dried (MgSO4), filtered, and concentrated to afford {6-[3-(2-amino-ethyl)-phenyl]-2-methoxy-pyrimidin-4-yl}-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethyl]-amine (0.55 g). LCMS: RT=1.85 minutes; MS: 435 (M+H).

reactant | (3-{6-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-acetonitrile | 1.53 mmol, 660 mg | FC1=C(C=CC(=C1)C(F)(F)F)CCNC1=CC(=NC(=N1)OC)C=1C=C(C=CC1)CC#N | C22H18F4N4O
solvent | MeOH | 20 mL | CO | CH4O
solvent | HCl | 2 mL | Cl | ClH
product | {6-[3-(2-amino-ethyl)-phenyl]-2-methoxy-pyrimidin-4-yl}-[2-(2-fluoro-4-trifluoromethyl-phenyl)-ethyl]-amine | 0.55 g | NCCC=1C=C(C=CC1)C1=CC(=NC(=N1)OC)NCCC1=C(C=C(C=C1)C(F)(F)F)F | C22H22F4N4O
